US07375134B2
To a solution of [(4-bromo-phenyl)-thiazol-2-yl-methyl]-[3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-amine (500 mg, 1.06 mmol) in THF (20 mL) and water (18 mL), was added 1N HCl (3.5 mL). The reaction mixture was stirred for 2 h. After checking the TLC for the disapperance of the starting material, Li(OH).H2O (280.2 mg, 6.3 eq.) was added and stirred at room temperature for 2 h. Then 1N HCl was added to adjust the pH 4-6, and the product was extracted with EtOAC and the organic layer dried over MgSO4. The solvent was evaporated to yield (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid as a yellow solid.

reactant | [(4-bromo-phenyl)-thiazol-2-yl-methyl]-[3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-amine | 1.06 mmol, 500 mg | BrC1=CC=C(C=C1)C(C=1SC=CN1)NC(CC(C)C)C12OCC(CO1)(CO2)C | C21H27BrN2O3S
reactant | HCl | 1N, 3.5 mL | Cl | ClH
reactant | HCl | 1N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 18 mL | O | H2O
solvent | H2O | 280.2 mg, 6.3 eq. | O | H2O
product | (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid | BrC1=CC=C(C=C1)[C@@H](C=1SC=CN1)N[C@H](C(=O)O)CC(C)C | C16H19BrN2O2S
